US03978034
β-Tert.butyl-Nα-tert.-butyloxycarbonyl-L-aspartyl-2,5-dihydro-L-phenylalanine methyl ester
β-tert.-butyl-Nα-tert.-butyloxycarbonyl-L-aspartic acid p-nitrophenyl ester (26.7 g.) is added to a mixture of 2,5-dihydro-L-phenylalanine methyl ester hydrochloride (11.8 g.), dimethylformamide (50 ml.) and triethylamine (7.6 ml.). After two hours at room temperature the reaction mixture is diluted with ethyl acetate and washed with 20% aqueous citric acid, water, saturated sodium bicarbonate and water. After drying over magnesium sulfate the solvent is removed in vacuo. Yield: 13.2 g.

reactant | β-tert.-butyl-Nα-tert.-butyloxycarbonyl-L-aspartic acid p-nitrophenyl ester | 26.7 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OC(C)(C)C)C(C(=O)O)C(C)(C)C)=O | C19H26N2O8
reactant | 2,5-dihydro-L-phenylalanine methyl ester hydrochloride | 11.8 g | Cl.COC([C@@H](N)CC=1CC=CCC1)=O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 7.6 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | β-Tert.butyl-Nα-tert.-butyloxycarbonyl-L-aspartyl-2,5-dihydro-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C(O)=O)C(C)(C)C)=O)CC=1CC=CCC1)=O | C23H36N2O7
